US04801705
(D) 1-(Aminocarbonyl)-3-(3,4-dihydroxyphenyl)-2-imidazolidinone
A solution of 14 g (52.8 mmol) of 1-(aminocarbonyl)-3-(3,4-dimethoxyphenyl)-2-imidazolidinone in 700 ml of dichloromethane was cooled to -78° C., and 39.7 g (158 mmol) of boron tribromide was added dropwise. The dry-ice bath was removed and the reaction mixture was stirred overnight at ambient temperature. The mixture was cooled to 0° C., and 20 ml of water was added dropwise. The precipitate was filtered off by suction and stirred with water for one hour. The product was filtered off and dried in vacuo; yield: 8.51 g; melting point >250° C.

reactant | 1-(aminocarbonyl)-3-(3,4-dimethoxyphenyl)-2-imidazolidinone | 52.8 mmol, 14 g | NC(=O)N1C(N(CC1)C1=CC(=C(C=C1)OC)OC)=O | C12H15N3O4
reactant | boron tribromide | 158 mmol, 39.7 g | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 700 ml | ClCCl | CH2Cl2
product | 1-(Aminocarbonyl)-3-(3,4-dihydroxyphenyl)-2-imidazolidinone | NC(=O)N1C(N(CC1)C1=CC(=C(C=C1)O)O)=O | C10H11N3O4
